US05039327
Twenty grams (0.36 moles) of reagent grade potassium hydroxide was added to 200 grams (255 cc) of absolute ethyl alcohol, with the mixture being refluxed until all of the KOH had dissolved (approximately 1 hour), after which the water formed was removed by a conventional water-alcohol azeotropic distillation. After adding a sufficient amount of absolute alcohol to bring the alcoholic solution back up to about 250 cc and cooling the solution back to room temperature, 5.7 grams (0.18 moles) of finely divided sulfur was added, with stirring, after which 6.1 grams (0.18 moles) of hydrogen sulfide was dissolved therein. At the conclusion of this addition, the temperature of the exothermically heated solution was adjusted to about 130° F and 13.6 grams (0.19 moles) of carbon disulfide were added, dropwise, thereto over a period of about 30 minutes. The mixture was then heated, under reflux, with stirring, for between about 20 minutes and about 1 hour, after which time a yellow-orange precipitate of potassium tetrathiocarbonate formed. The precipitate was vacuum filtered, under an inert atmosphere, and washed 3 times with about 50 cc of pentane. The washed material was dried, under vacuum, for about 8 hours at 60° C., to produce free-flowing salt particles.

reactant | potassium hydroxide | [OH-].[K+]
reactant | ethyl alcohol | 255 cc, 200 grams | C(C)O | C2H6O
reactant | hydrogen sulfide | 0.18 moles, 6.1 grams | S | H2S
reactant | carbon disulfide | 0.19 moles, 13.6 grams | C(=S)=S | CS2
solvent | water | O | H2O
product | potassium tetrathiocarbonate | C([O-])([O-])=S.C([O-])([O-])=S.C([O-])([O-])=S.C([O-])([O-])=S.[K+].[K+].[K+].[K+].[K+].[K+].[K+].[K+] | InChI=1S/4CH2O2S.8K/c4*2-1(3)4;;;;;;;;/h4*(H2,2,3,4);;;;;;;;/q;;;;8*+1/p-8
